US07875639B2
Adamantane-1-carboxylic acid (4,5-dimethyl-thiazol-2-yl)-amide
To a solution of 4,5-dimethyl-thiazol-2-ylamine hydrochloride (1.65 g, 10.0 mmol) in THF (100 mL) was added triethylamine (4.2 mL, 30 mmol) and adamantane-1-carbonyl chloride (2.2 g, 11 mmol). The mixture was heated at reflux overnight and then concentrated under reduced pressure. The residue was diluted with ethyl acetate, washed with 1M NaHCO3, dried (Na2SO4), filtered and concentrated. Purification by column chromatography (SiO2, 10% ethyl acetate:90% hexanes) afforded 2.15 g (74%) of the title compound. MS (ESI+) m/z 291 (M+H)+.

reactant | 4,5-dimethyl-thiazol-2-ylamine hydrochloride | 10.0 mmol, 1.65 g | Cl.CC=1N=C(SC1C)N
reactant | triethylamine | 30 mmol, 4.2 mL | C(C)N(CC)CC | C6H15N
reactant | adamantane-1-carbonyl chloride | 11 mmol, 2.2 g | C12(CC3CC(CC(C1)C3)C2)C(=O)Cl | C11H15ClO
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | Adamantane-1-carboxylic acid (4,5-dimethyl-thiazol-2-yl)-amide | 2.15 g, 74% | CC=1N=C(SC1C)NC(=O)C12CC3CC(CC(C1)C3)C2 | C16H22N2OS
